US09403801B2
Step 1) tert-butyl 9-((2,5-dichloropyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
To a solution of 2,4,5-trichloropyrimidine (300 mg, 1.64 mmol) and tert-butyl 9-(methylamino)-3-azaspiro[5.5]undecane-3-carboxylate (511.18 mg, 1.81 mmol) in ethanol (15 mL) was added N,N-diethylethanamine (331.90 mg, 3.28 mmol). The reaction mixture was stirred at rt overnight and then concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/10 to 1/5) to give the title compound as yellow oil (101.83 mg, 14.5%).

reactant | 2,4,5-trichloropyrimidine | 1.64 mmol, 300 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | tert-butyl 9-(methylamino)-3-azaspiro[5.5]undecane-3-carboxylate | 1.81 mmol, 511.18 mg | CNC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C16H30N2O2
reactant | N,N-diethylethanamine | 3.28 mmol, 331.90 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | tert-butyl 9-((2,5-dichloropyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 101.83 mg, 14.5% | ClC1=NC=C(C(=N1)N(C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C)Cl | C20H30Cl2N4O2
